US05569664
A stirred solution of 2.2 grams (0.009 mole) 4-(2-methyl-2H-tetrazol-5-yl)phenyl bromide (prepared by the method of G. D. Diana et al., J. Med. Chem. 1993, 36, 3240-3250) in 70 mL of dry tetrahydrofuran was cooled to -70° C., and 7.4 mL (0.018 mole) of n-butyllithium (2.5M in hexanes) was added dropwise from a syringe. The resulting reaction caused the reaction mixture temperature to rise to about -50° C. The reaction mixture was again cooled to -70° C., and stirring was continued for about 30 minutes. After this time 0.8 mL (0.010 mole) of N,N-dimethylformamide was added during a 90 second period. The reaction mixture was then stirred for 30 minutes at ice-water bath temperature, after which time it was allowed to warm to ambient temperature. The reaction mixture was poured into 200 mL of an aqueous solution saturated with ammonium chloride. The mixture was stirred for about 90 minutes and then extracted with three 150 mL portions of ethyl acetate. The combined extracts were washed with one 400 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil, which was subjected to column chromatography on silica gel, with 3:7 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.5 gram of 4-(2-methyl-2H-tetrazol-5-yl)benzaldehyde. The NMR spectrum was consistent with the proposed structure.

reactant | 4-(2-methyl-2H-tetrazol-5-yl)phenyl bromide | 0.009 mole, 2.2 grams | CN1N=C(N=N1)C1=CC=C(C=C1)Br | C8H7BrN4
reactant | n-butyllithium | 0.018 mole, 2.5M, 7.4 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.010 mole, 0.8 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-(2-methyl-2H-tetrazol-5-yl)benzaldehyde | 0.5 gram | CN1N=C(N=N1)C1=CC=C(C=O)C=C1 | C9H8N4O
